US06046192
(R)-4-Benzyloxymandelic acid (2.43 g), (S)-2-amino-7-hydroxytetralin hydrobromide (2.87 g) and triethylamine (2.88 ml) were dissolved in dichloromethane (38 ml), and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (4.58 g) was added to the solution at room temperature with stirring. After reaction for 15 hours, ethyl acetate was added to the reaction mixture. The resulting mixture was washed with water, 1N hydrochloric acid, a saturated aqueous sodium bicarbonate solution and brine successively, dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. Purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: chloroform/ethyl acetate=1/1) and following recrystallization from ethyl acetate-hexane gave (2R)-2-(4-benzyloxyphenyl)-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide (3.48 g) having a melting point of 137-139° C.

reactant | (R)-4-Benzyloxymandelic acid | 2.43 g | C(C1=CC=CC=C1)OC1=CC=C([C@H](C(=O)O)O)C=C1 | C15H14O4
reactant | (S)-2-amino-7-hydroxytetralin hydrobromide | 2.87 g | Br.N[C@@H]1CC2=CC(=CC=C2CC1)O
reactant | triethylamine | 2.88 ml | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 4.58 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dichloromethane | 38 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-2-(4-benzyloxyphenyl)-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide | 3.48 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@H](C(=O)N[C@@H]1CC2=CC(=CC=C2CC1)O)O | C25H25NO4
